US05925767
2. Ethyl 3-(2-methylsulfonylthioethoxy)-2-methylbenzoate
2 g (7 mmol) of ethyl 3-(2-bromoethoxy)-2-methylbenzoate and 1.1 g (7.3 mmol) of potassium thiomethanesulfonate are dissolved in 10 ml absolute ethanol. The reaction mixture is refluxed for 20 hours. The solvent is then distilled off and the residue taken up in methylene chloride and washed with water. The organic phase is dried over sodium sulfate and the solvent is removed. The product of value is purified by column chromatography.

reactant | ethyl 3-(2-bromoethoxy)-2-methylbenzoate | 7 mmol, 2 g | BrCCOC=1C(=C(C(=O)OCC)C=CC1)C | C12H15BrO3
reactant | potassium thiomethanesulfonate | 7.3 mmol, 1.1 g | CS(=O)(=S)[O-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Ethyl 3-(2-methylsulfonylthioethoxy)-2-methylbenzoate | CS(=O)(=O)SCCOC=1C(=C(C(=O)OCC)C=CC1)C | C13H18O5S2
